US08865726B2
A solution of (S)-tert-butyl 1-(4-methoxybenzylamino)-3-methyl-1-oxobutan-2-ylcarbamate (1.50 g, 4.46 mmol) in dichloromethane (15 mL) was cooled to 0° C. Trifluoroacetic acid (2 mL) was added and the mixture stirred at 0° C. for 7 hours. The reaction mixture was concentrated and the residue taken up in dichloromethane and washed with saturated aqueous NaHCO3 solution. The combined organic extracts were dried over sodium sulfate, filtered and concentrated. Purification of the crude material by column chromatography, eluting with 4% MeOH/dichloromethane with 0.1% NH4OH, provided (S)-2-amino-N-(4-methoxybenzyl)-3-methylbutanamide (0.770 g, 73%). LCMS (APCI+) m/z 237 [M+H]+.

reactant | (S)-tert-butyl 1-(4-methoxybenzylamino)-3-methyl-1-oxobutan-2-ylcarbamate | 4.46 mmol, 1.50 g | COC1=CC=C(CNC([C@H](C(C)C)NC(OC(C)(C)C)=O)=O)C=C1 | C18H28N2O4
reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (S)-2-amino-N-(4-methoxybenzyl)-3-methylbutanamide | 0.770 g, 73% | N[C@H](C(=O)NCC1=CC=C(C=C1)OC)C(C)C | C13H20N2O2
